US04544668
In a separate process, 23.9 g of azelaic monomethylester was dissolved in 30 ml chloroform. Oxalylchloride (15 ml) was added, all at once, and the mixture refluxed 2 hours at 50° C. The mixture was cooled; excess solvent and oxalylchloride were evaporated. After distillation, 25.8 g of CH3OCO(CH2)7COCl was obtained.

reactant | Oxalylchloride | 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | azelaic monomethylester | 23.9 g | COC(CCCCCCCC(=O)O)=O | C10H18O4
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | CH3OCO(CH2)7COCl | 25.8 g | COC(=O)CCCCCCCC(=O)Cl | C10H17ClO3
